US08236792B2
(2S,4S)-1-Methyl-2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-4-(4-fluoro-phenoxy)-pyrrolidine.
To a solution of (2S,4S)-2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-4-(4-fluoro-phenoxy)-pyrrolidine (26 mg, 0.072 mmol) in ethanol (EtOH; 1 mL) was added formaldehyde (37% in H2O; 150 μL) and sodium triacetoxyborohyrdide (46 mg, 0.216 mmol). After 18 h, the mixture was diluted with 1 M NaOH and, stirred for 1 h, and extracted with CH2Cl2 (3×). The combined organic layers were dried and concentrated. Purification by FCC provided the desired product (17 mg, 63%). MS (ESI): mass calcd. for C21H30FN3O2, 375.23; m/z found, 376.6 [M+H]+. 1H NMR (CDCl3): 6.97-6.91 (m, 2H), 6.80-6.73 (m, 2H), 4.77-4.70 (m, 1H), 3.85-3.53 (m, 4H), 3.37 (dd, J=10.7, 3.8 Hz, 1H), 3.15 (ddd, J=8.9, 8.8, 2.7 Hz, 1H), 2.88-2.78 (m, 1H), 2.66-2.57 (m, 1H), 2.51-2.44 (m, 3H), 2.40 (dd, J=10.9, 5.2 Hz, 2H), 2.35 (s, 3H), 2.16-2.07 (m, 1H), 2.06-1.98 (m, 2H), 1.91-1.78 (m, 4H), 1.71-1.56 (m, 2H).

reactant | (2S,4S)-2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-4-(4-fluoro-phenoxy)-pyrrolidine | 0.072 mmol, 26 mg | C1(CCC1)N1CCN(CCC1)C(=O)[C@H]1NC[C@H](C1)OC1=CC=C(C=C1)F | C20H28FN3O2
reactant | formaldehyde | 150 μL | C=O | CH2O
reactant | sodium | [Na] | Na
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | NaOH | 1 M | [OH-].[Na+]
product | (2S,4S)-1-Methyl-2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-4-(4-fluoro-phenoxy)-pyrrolidine | 17 mg, 63% | CN1[C@@H](C[C@@H](C1)OC1=CC=C(C=C1)F)C(=O)N1CCN(CCC1)C1CCC1 | C21H30FN3O2
